US07132436B2
N-[4-(5-chloro-2-thienyl)-1,3-thiazol-2-yl][1,1′-biphenyl]-4-sulfonamide
The title compound was prepared from 4-(5-chloro-2-thieny)-1,3-thiazol-2-amine and 4-phenylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (4.3 mg) with purity >80%. MS (pos) m/z 433.1, 435.1.

reactant | 4-(5-chloro-2-thieny)-1,3-thiazol-2-amine | ClC1=CC=C(S1)C=1N=C(SC1)N | C7H5ClN2S2
reactant | 4-phenylbenzenesulfonyl chloride | C1(=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO2S
product | N-[4-(5-chloro-2-thienyl)-1,3-thiazol-2-yl][1,1′-biphenyl]-4-sulfonamide | ClC1=CC=C(S1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H13ClN2O2S3
